US08314098B2
Synthesis of N-(1H-indol-3-yl-methylidene)-N′-(7-morpholin-4-yl-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 88)
To a solution of (7-morpholin-4-yl-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (25 mg, 0.080 mM) in ethanol (1.5 mL), there were added 3-formyl-indole (18 mg, 0.12 mM) and acetic acid (3 μL) and then the mixture was stirred at room temperature for 3 hours. The precipitated solid was recovered through filtration and then washed with ethanol to thus give the title compound (18 mg, yield: 51%).

reactant | (7-morpholin-4-yl-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.080 mM, 25 mg | N1(CCOCC1)C1=CC(=NC=2N1N=CC2C2=NC=CC=C2)NN | C15H17N7O
reactant | 3-formyl-indole | 0.12 mM, 18 mg | C(=O)C1=CNC2=CC=CC=C12 | C9H7NO
reactant | acetic acid | 3 μL | C(C)(=O)O | C2H4O2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | N-(1H-indol-3-yl-methylidene)-N′-(7-morpholin-4-yl-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 18 mg, yield: 51% | N1C=C(C2=CC=CC=C12)C=NNC1=NC=2N(C(=C1)N1CCOCC1)N=CC2C2=NC=CC=C2 | C24H22N8O
